Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall, rib fractures, hemopneumothorax
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of atrial 
fibrillation on coumadin, EtOH abuse c/b withdrawal seizures 
currently on phenobarbital, who sustained a fall down ___ steps 
in his home, with subsequent right-sided rib fractures (ribs 
___ in the setting of a supratherapeutic INR of 6.0 on 
admission. He was also found to have a positive EtOH. He 
received 1L NS and was brought to ___. In the ED, he was found 
to have R sided subcutaneous emphysema on exam, and was 
hemodynamically stable (98% on 2LNC). Given his supratherapeutic 
INR and small hemopneumothorax, a chest tube was deferred. He 
was given one dose of lorazepam for presumed alcohol withdrawal. 
He was sent to the TSICU/SICU for further management. He 
received PTCC/KCentra for reversal of his INR to 1.2.

His hospital course was complicated by symptomatic alcohol 
withdrawal, requiring a phenobarbital drip per protocol.

He was also noted to be hyponatremic to 119 on admission (first 
diagnosed with hyponatremia in ___, 123 at that time).
 
Past Medical History:
Afib (on warfarin)  
HTN  
CHF  
Alcohol abuse (drinks 6 pack of beer daily, 8 pack on weekends)  


 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On admission:  
VS - Afebrile, hemodynamically stable, SpO2 98% on 2LNC  
General: NAD  
HEENT: NCAT  
CV: Irreg irreg  
Lungs: CTAB, Crepitus over R chest, TTP R back  
Abdomen: soft, NT/ND  
GU: N/A  
Ext: Warm well perfused  

On discharge:
VS- Tmax 98.5, Tcurr 98.0, BP 121/50 (107-138/40-71), HR 60 
(56-83), RR 18, SpO2 100% RA (98-100% RA)  
I/O: ___ + BM x 1  
Weight: 56.9 kg (same as ___ when first came to the floor)  
General: NAD, just woken up  
HEENT: NC/AT, purplish bruising on nose  
Neck: Supple, full range of motion, no LAD  
Chest: Large hematoma, purple, with subcutaneous emphysema on R 
chest/ R flank. Stable since yesterday, decreased since 3 days 
prior. Non-tender.  
CV: Irregularly irregular, tachycardic, no murmurs, rubs, or 
gallops; no JVD  
Lungs: Expiratory wheezing in the R mid and lower lung fields, 
slightly coarse breath sounds throughout  
Abdomen: Soft, non-tender, non-distended, normoactive bowel 
sounds,  
GU: No CVA tenderness, no suprapubic tenderness, no foley  
Ext: No cyanosis, clubbing, or edema  
Neuro: A&Ox3, CN II-XII grossly intact  
Skin: No excoriations, lesions, or rashes.  

 
Pertinent Results:
On admission:
___ 11:30AM BLOOD WBC-10.6 RBC-3.67* Hgb-13.0* Hct-39.3* 
MCV-107* MCH-35.4* MCHC-33.1 RDW-14.5 Plt ___
___ 11:30AM BLOOD Neuts-81.7* Lymphs-11.7* Monos-5.3 
Eos-0.9 Baso-0.4
___ 11:30AM BLOOD ___ PTT-47.3* ___
___ 11:30AM BLOOD Glucose-108* UreaN-7 Creat-0.9 Na-119* 
K-7.5 (hemolyzed)* Cl-94* HCO3-15* AnGap-18
___ 12:48PM BLOOD K-4.4
___ 11:30AM BLOOD ALT-34 AST-90* AlkPhos-56 TotBili-0.7
___ 11:30AM BLOOD Lipase-28
___ 11:30AM BLOOD Albumin-3.4*
___ 07:40PM BLOOD Calcium-7.9* Phos-4.2 Mg-1.4*
___ 11:30AM BLOOD ASA-NEG Ethanol-69* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 12:00PM URINE Color-Straw Appear-Clear Sp ___
___ 12:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

In the interim:
___ 11:30AM BLOOD ___ PTT-47.3* ___
___ 03:25PM BLOOD ___ PTT-33.4 ___
___ 07:40PM BLOOD ___ PTT-32.6 ___
___ 04:02AM BLOOD ___ PTT-34.8 ___
___ 10:43AM BLOOD ___ PTT-31.3 ___
___ 05:26AM BLOOD ___ PTT-33.4 ___
___ 06:35AM BLOOD ___ PTT-36.4 ___
___ 04:40AM BLOOD ___ PTT-34.7 ___
___ 06:25AM BLOOD ___ PTT-31.4 ___
___ 06:25AM BLOOD Glucose-89 UreaN-8 Creat-1.0 Na-132* 
K-3.8 Cl-97 HCO3-28 AnGap-11

On discharge:
___ 07:00AM BLOOD WBC-4.2 RBC-2.34* Hgb-8.5* Hct-25.1* 
MCV-107* MCH-36.2* MCHC-33.7 RDW-15.2 Plt ___
___ 07:00AM BLOOD ___ PTT-39.0* ___
___ 07:00AM BLOOD Glucose-81 UreaN-9 Creat-0.9 Na-133 K-4.1 
Cl-99 HCO3-28 AnGap-10
___ 07:00AM BLOOD Calcium-8.4 Phos-3.7 Mg-1.5*

MICROBIOLOGY:
___ 12:00 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING and other studies:
ECG Study Date of ___  11:21:54 AM 
Atrial fibrillation with a relatively rapid ventricular 
response. Delayed 
R wave progression in the precordial leads. Peaked T waves in 
the anterior leads. Probable prior anteroseptal myocardial 
infarction. Low QRS voltage in the limb leads. No previous 
tracing available for comparison.  
Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
87 0 78 392/439 0 31 61 

CXR (___):
IMPRESSION:  
Right rib fractures with subcutaneous gas and a small right 
apical 
pneumothorax.  Right basilar opacity could represent an effusion 
or 
hemothorax. 

CT head w/o contrast (___):
IMPRESSION:  
1. No acute intracranial process. 
2. Global involutional changes, slightly advanced for age. 
3. Nasal bone fractures could be old, clinical correlation 
suggested. 

CXR (___):
IMPRESSION:  
As compared to the previous radiograph, there is unchanged 
evidence of 
displaced right rib fractures and a right hema toe thorax.  The 
extent of the fluid component of the hemothorax, however, has 
substantially increased. The soft tissue air collection on the 
right is constant in appearance. Unchanged appearance of the 
cardiac silhouette and of the left lung. 

CXR (___):
IMPRESSION:  
No relevant change as compared to the previous examination. 
Known multiple rib fractures. Known soft tissue air collections 
on the right.  The right lung apex re-confirms the presence of a 
millimetric pneumothorax without evidence of tension. The extent 
of the right pleural effusion has minimally increased. Unchanged 
appearance of the cardiac silhouette and of the left lung. 

CXR (___):
IMPRESSION:  
There is small bilateral pleural effusions right greater than 
left and a small right lateral pneumothorax there is a moderate 
amount of right-sided subcutaneous emphysema there is volume 
loss in the right lower lobes. Compared to the prior study the 
right-sided pneumothorax is slightly larger.

CXR (___):
IMPRESSION:  
Multiple right-sided rib fractures are again visualized. There 
is a moderate right-sided effusion.  And a small right 
pneumothorax there is also small left effusion compared to the 
study from the prior day, the effusions have slightly increased.

TTE (___):
Conclusions: The left atrium is markedly dilated. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Mild to moderate 
(___) mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. There is mild pulmonary artery 
systolic hypertension. There is a trivial/physiologic 
pericardial effusion. There are no echocardiographic signs of 
tamponade.
 
Brief Hospital Course:
___ y/o male with history of A-fib on warfarin, s/p fall with 
multiple R sided rib fractures (ribs ___, who presented with 
hemopneumothorax. 

ACUTE ISSUES: 
#Rib fractures, hemopneumothorax: In the setting of a 
supratherapeutic INR to 6.0 on admission, his rib fractures and 
hemopneumonthorax were managed conservatively. He also had a CT 
head without contrast on admission, because it was unclear if he 
had hit his head during the fall; imaging was negative for any 
intracranial bleed, and demonstrated old nasal bone fractures 
s/p a hockey injury ___ years ago. Thoracostomy/ pigtail 
catheter was deferred for the hemopneumothorax. His respiratory 
status was closely monitored, and he received almost daily CXRs. 
He was transferred from the SICU to the regular medical floor 
after remaining hemodynamically stable for 3 days. On exam, he 
continued to have a right flank/back hematoma with significant 
subcutaneous emphysema/crepitus. His exam remained stable over 
the course of his admission. In the setting of an increasing 
effusion noted on CXR the day prior to discharge, he received an 
echocardiogram to determine the status of his heart failure. EF 
was noted to be >55%. He continued to saturate well on room air. 
He has close follow-up scheduled with his cardiologist. His rib 
fracture pain was controlled with Dilaudid, transitioned to 
Oxycodone, and Tylenol. 

#Supratherapeutic INR: Patient's INR was 5.4-6.0 on 
presentation. He received KCentra/PTCC for reversal, and was 
reversed to 1.2. He also received 2 mg of Vitamin K x 1. In the 
setting of his recent trauma, bridging him with heparin was 
deferred. His warfarin was re-started at his home dosing of 2.5 
mg PO qday on hospital day #3. He continued to be 
subtherapeutic, and he received one dose of 4 mg PO. He was 
still subtherapeutic at 1.3 on the morning of discharge, and was 
continued on his home 2.5 mg PO qday regimen, to be closely 
followed by his cardiologist. 

#Hyponatremia: Patient's serum sodium on admission was 119. Of 
note, he does have chronic hyponatremia, first diagnosed in 
___, where his serum sodium was noted to be 123. Per our review 
of his records, the etiology has not been previously worked up, 
but it is likely secondary to his chronic alcohol abuse vs. 
hypovolemic hyponatremia. He received maintenance fluids during 
his stay in the ICU, which were discontinued on the floor. SIADH 
and other central etiologies were investigated during this 
admission. He received a gentle fluid bolus of 250cc, with no 
change noted in his sodium. TSH and cortisol levels were also 
checked, and were within normal limits. To that end, he was 
fluid restricted to less than 2L/day. By time of discharge his 
serum Na had nearly normalized, with Na of 133, further 
supporting a diagnosis of hyponatremia ___ beer potomania. 

CHRONIC ISSUES: 
#Atrial fibrillation: Due to initial EKG with relatively rapid 
ventricular response, patient was initially controlled with 
Metoprolol ___ mg IV q6hr. After appropriate control was 
achieved (rate 100s-110s), he was transitioned to Metoprolol 50 
mg PO BID. He was eventually discharged on Metoprolol XL 100 mg 
PO qday. 

#HTN: His home Lisinopril 2.5 mg PO qday was continued 
throughout this admission.
  
#Congestive Heart Failure: His last echocardiogram prior to this 
admission was ___ year. In the setting of a new effusion noted on 
x-ray the day prior to discharge, he received a TTE in-house, 
which demonstrated LVEF > 55%. He was fluid restricted to <2 L 
while in-house. He does have close cardiology follow-up 
scheduled.

#Hx of alcohol abuse: Patient was initially thought to be 
confused and symptomatic due to alcohol withdrawal upon 
presentation in the ICU. He was started on a phenobarbital drip 
per protocol, and was transitioned to PO phenobarbital. He 
completed the full taper while in-house. Alcohol cessation was 
encouraged, and mandated immediately after discharge while on 
narcotics for pain control. He was thrombocytopenic this 
admission, likely secondary to his alcohol use. 

#> 30 ppd smoking history: Patient was given a nicotine patch.
  
TRANSITIONAL ISSUES:
- Patient will need his INR and warfarin dosing monitored 
closely upon discharge, with goal INR of 2 to 3 in the setting 
of atrial fibrillation.
- Repeat evaluation of sodium is advised to ensure stability 
post discharge.
- Continued encouragement of alcohol cessation is advised.
- Home metoprolol was uptitrated in the setting of rapid atrial 
fibrillation to 150s, possibly precipitated by pain and/or 
alcohol withdrawal; further titration is needed in the 
outpatient setting.
- No pending studied at the time of discharge.
- Code status: FULL CODE (confirmed). 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Warfarin 2.5 mg PO DAILY16 (every day except ___ 

 
Discharge Medications:
1. Lisinopril 2.5 mg PO DAILY 
2. Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour 1 patch once a day Disp #*30 Patch 
Refills:*0
3. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0
4. Outpatient Lab Work
please check INR on and fax results to Dr ___ at ___ 
by ___.
icd-9 code: ___
5. Warfarin 2.5 mg PO DAILY16 
6. Acetaminophen 650 mg PO Q8H pain 
RX *acetaminophen 650 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0
7. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth four times a day Disp 
#*16 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Traumatic rib fractures
Hemopneumothorax
Hyponatremia

Secondary:
Atrial fibrillation
Hypertension
History of alcohol use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being a part of your care during your 
admission to ___. After you 
fell at home, you sustained rib fractures in ribs ___ on your 
right side. You developed a combination of blood and air in the 
chest due to the fractures and the fall. You were treated with 
rest and pain control. Your breathing continued to remain stable 
during your admission, and there were no signs of active 
bleeding. You had repeat chest x-rays, which showed that the 
blood and air on your right side were stable. It is very 
important that you avoid combining pain medications and alcohol 
since the combination can cause dangerous side effects, 
including oversedation and difficulty breathing.

Your INR was found to be high on admission and was lowered with 
medication. You were restarted on your warfarin when safe. 
Please take your warfarin as prescribed and follow up with your 
doctor to have your INR checked at your previous schedule. It is 
important to seek immediate medical attention if you hit your 
head or notice excessive bleeding of any kind.

On admission, your sodium level was also found to be low. Per 
your records, it seems that your sodium level has been low since 
at least ___. Your sodium was stably slightly low at discharge. 


Please see the following recommendations from the surgeons who 
care for you:
-You have sustained a rib fracture which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
-You should take your pain medicine as prescribed in order to 
stay ahead of the pain otherwise you will not be able to take 
deep breaths.  If the pain medicine is too sedating, (making you 
sleepy) take half the dose and call your doctor.
-___ is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 
(plastic breathing machine) 4 times per hour while awake.  A 
good rule is if you are watching TV to use it with every 
commercial.  This will help expand the small airways in your 
lungs as well as help you to bring up secretions that can pool 
in the lungs and cause infectin.
-You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
-Symptomatic relief with ice packs or heating pads for short 
periods may help ease the pain.
-Narcotic pain medicine can cause constipation therefore you 
should take a stool softener twice a day and increase your fluid 
and fiber intake.
-DO NOT SMOKE.  Smoking always has negative health consequences, 
but is particularly dangerous during the period of your recovery 
from a rib fracture.
-Return to the emergency room right away if you develop any 
acute shortness of breath, increased pain or crackling sensation 
around your ribs. 
 
Followup Instructions:
___